US05153318
a) 2-Amino-6-ethoxypurine
Sodium (0.68 g, 29.5 mmol, Aldrich lot #9621CL) was added in portions to anhydrous ethanol (50 mL). Upon complete dissolution 2-amino-6-chloropurine (1 g, 5.9 mmol Sigma lot #69F4064) was added and the reaction heated at reflux for 96 hours. The reaction was cooled, diluted with 20 mL water, and neutralized with 1N HCl. The solvents were evaporated and the residue slurried in 100 mL water. The product was filtered off and air dried to give 0.95 g (5.3 mmol; 89.9%); mp=252-°253° C.

reactant | Sodium | 29.5 mmol, 0.68 g | [Na] | Na
reactant | ethanol | 50 mL | C(C)O | C2H6O
reactant | 2-amino-6-chloropurine | 5.9 mmol, 1 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | HCl | 1N | Cl | ClH
solvent | water | 20 mL | O | H2O
product | 2-Amino-6-ethoxypurine | NC1=NC(=C2NC=NC2=N1)OCC | C7H9N5O
